US04487920
At the same time a solution of bromomagnesium caprolactam was prepared from a mixture of 20.6 mL of ethyl magnesium bromide, 2.0 molar in ethyl ether, and 104.74 q of caprolactam.

reactant | ethyl magnesium bromide | 20.6 mL | C(C)[Mg]Br
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | bromomagnesium caprolactam | C1(CCCCCN1)=O.Br[Mg] | InChI=1S/C6H11NO.BrH.Mg/c8-6-4-2-1-3-5-7-6;;/h1-5H2,(H,7,8);1H;/q;;+1/p-1
